US05371100
Using (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (202 mg) and 1H-1,2,3-triazole (0.17 ml), (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(2H-1,2,3-triazol-2-yl) ethyl]oxirane (172 mg) was obtained by the same way as in Reference Example 10.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 202 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1H-1,2,3-triazole | 0.17 ml | N1N=NC=C1 | C2H3N3
product | (2S)-2-(2,4-difluorophenyl)-2-[(1R)-1-(2H-1,2,3-triazol-2-yl) ethyl]oxirane | 172 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)N1N=CC=N1 | C12H11F2N3O
